US05688798
A solution of 9.81 g (0.030 mol) of 2-(4-amino-2-methyl-pyrimidin-5-ylmethyl)-5,6,7,8-tetrahydro-isoquinolinium chloride hydrochloride in 50 ml of methanol was treated portionwise at 10° with 3.5 g (0.092 mol) of sodium borohydride. The mixture was stirred at room temperature for 1 hour and completely freed from the solvents. The residue was partitioned between ethyl acetate and water, extracted and recrystallized from petroleum ether. 5.7 g (74%) of 5-(3,4,5,6,7,8-hexahydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine were obtained as white crystals; m.p. 137°-139° (dec.).

reactant | 2-(4-amino-2-methyl-pyrimidin-5-ylmethyl)-5,6,7,8-tetrahydro-isoquinolinium chloride hydrochloride | 0.030 mol, 9.81 g | Cl.[Cl-].NC1=NC(=NC=C1C[N+]1=CC=2CCCCC2C=C1)C
reactant | sodium borohydride | 0.092 mol, 3.5 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-(3,4,5,6,7,8-hexahydro-1H-isoquinolin-2-ylmethyl)-2-methyl-pyrimidin-4-ylamine | 5.7 g, 74% | C1N(CCC=2CCCCC12)CC=1C(=NC(=NC1)C)N | C15H22N4
